US08217069B2
A mixture of 4-chloro-6-methoxy-2-methyl-5-nitropyrimidine (0.14 g), ethyl 2-[4-amino-5-chloro-2-(2,3-difluoro-6-methoxybenzyloxy)phenoxy]acetate (0.23 g) and N,N-diisopropylethylamine (0.11 mL) in acetonitrile (3 mL) was stirred at 105° C. in a reaction vessel equipped with a reflux condenser for 17 hours. The reaction mixture was cooled to room temperature. To the reaction mixture were added ethyl acetate and water, and the resulting mixture was stirred at room temperature for 30 minutes. The organic layer was separated, and washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=4/1−2/3) to give ethyl 2-[5-chloro-2-(2,3-difluoro-6-methoxybenzyloxy)-4-(6-methoxy-2-methyl-5-nitropyrimidin-4-ylamino)phenoxy]acetate (0.16 g). To this material were added tetrahydrofuran (4 mL), methanol (2 mL) and 10% platinum-carbon powder (30 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere for 3 hours. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. To the residue was added ethyl acetate, and the mixture was concentrated under reduced pressure. The residue was dissolved in N,N-dimethylformamide (5 mL). To the solution was added 1,1′-carbonyldiimidazole (88 mg) at room temperature. To the mixture was added sodium hydride (55%, 59 mg) under ice-cooling, and the mixture was stirred at room temperature for 1.5 hours. The reaction mixture was poured into 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=3/2−3/7) to give the title compound (70 mg).

reactant | 4-chloro-6-methoxy-2-methyl-5-nitropyrimidine | 0.14 g | ClC1=NC(=NC(=C1[N+](=O)[O-])OC)C | C6H6ClN3O3
reactant | ethyl 2-[4-amino-5-chloro-2-(2,3-difluoro-6-methoxybenzyloxy)phenoxy]acetate | 0.23 g | NC1=CC(=C(OCC(=O)OCC)C=C1Cl)OCC1=C(C(=CC=C1OC)F)F | C18H18ClF2NO5
reactant | N,N-diisopropylethylamine | 0.11 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | ethyl 2-[5-chloro-2-(2,3-difluoro-6-methoxybenzyloxy)-4-(6-methoxy-2-methyl-5-nitropyrimidin-4-ylamino)phenoxy]acetate | 0.16 g | ClC=1C(=CC(=C(OCC(=O)OCC)C1)OCC1=C(C(=CC=C1OC)F)F)NC1=NC(=NC(=C1[N+](=O)[O-])OC)C | C24H23ClF2N4O8
